US07625932B2
Preparation of ethyl 4-cyano-5-fluoro-3-iodo-1-methylpyrrole-2-carboxylate
Dissolve 4-cyano-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (2.69 mmol, prepared in preparation 34) and SELECTFLUOR® (4.04 mmol, 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis-(tetrafluoroborate)) in acetonitrile (27 mL). Heat the mixture at 80° C. for 16 h. Add H2O (30 mL) and methylene chloride (30 mL) into the reaction mixture. Extract with methylene chloride (3×30 mL). Combine the organic layers, dry over magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography to provide the title compound. Mass spectrum (m/e): 318.9 (M−1). Rf=0.5 (50% Et2O in hexanes).

reactant | 4-cyano-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 2.69 mmol | C(C)OC(=O)C=1N(C=C(C1I)C#N)C | C9H9IN2O2
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis-(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
reactant | H2O | 30 mL | O | H2O
reactant | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 27 mL | C(C)#N | C2H3N
product | ethyl 4-cyano-5-fluoro-3-iodo-1-methylpyrrole-2-carboxylate | C(#N)C=1C(=C(N(C1F)C)C(=O)OCC)I | C9H8FIN2O2
